US08859773B2
Step 4: ethyl 1-(4-methoxybenzylamino)isoquinoline-7-carboxylate
To a solution of ethyl 1-chloroisoquinoline-7-carboxylate (548 mg, 2.32 mmol) in N,N-dimethylformamide (9.3 mL) was added 4-methoxy-benzylamine (4.6 mL, 35 mmol) and potassium carbonate (5.14 g, 37.2 mmol). The reaction was heated to 70° C. and stirred overnight. The reaction was cooled to room temperature and was diluted with ethyl acetate and water. The layers were separated and the aqueous was extracted twice with ethyl acetate. The combined organics were washed with water and brine, dried over magnesium sulfate, filtered, and concentrated. Purification by flash column chromatography (0-35% ethyl acetate/heptanes) gave the title compound (430 mg, 55%) as a greenish oil. 1H NMR (400 MHz, CDCl3, δ): 8.49 (s, 1H), 8.16 (dd, J=8.6, 1.6 Hz, 1H), 8.09 (d, J=5.9 Hz, 1H), 7.69 (d, J=8.6 Hz, 1H), 7.33-7.40 (m, 2H), 6.96 (d, J=5.9 Hz, 1H), 6.87-6.93 (m, 2H), 5.67 (br. s., 1H), 4.76 (d, J=5.1 Hz, 2H), 4.41 (q, J=7.2 Hz, 2H), 3.81 (s, 3H), 1.37-1.43 (m, 3H).

reactant | ethyl 1-chloroisoquinoline-7-carboxylate | 2.32 mmol, 548 mg | ClC1=NC=CC2=CC=C(C=C12)C(=O)OCC | C12H10ClNO2
reactant | 4-methoxy-benzylamine | 35 mmol, 4.6 mL | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | potassium carbonate | 37.2 mmol, 5.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 9.3 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | ethyl 1-(4-methoxybenzylamino)isoquinoline-7-carboxylate | 430 mg, 55% | COC1=CC=C(CNC2=NC=CC3=CC=C(C=C23)C(=O)OCC)C=C1 | C20H20N2O3
